US08431575B2
To a stirred solution of (±)-cis-4-benzyloxycarbonylamino-3-(4-nitro-benzoyloxy)-piperidine-1-carboxylic acid tert-butyl ester (0.63 mmol, 0.315 g) in THF (5 mL) at 0° C. was added LiOH (0.16 g) dissolved in water (1.5 mL) and continued stirring at 0° C. for 30 min followed by 2 h at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in water (10 mL) and extracted with ethyl acetate. The combined organic layers were dried, filtered and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography to provide (±)-cis-4-benzyloxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester.

reactant | (±)-cis-4-benzyloxycarbonylamino-3-(4-nitro-benzoyloxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 0.315 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C25H29N3O8
reactant | LiOH | 0.16 g | [Li+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | (±)-cis-4-benzyloxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)O | C18H26N2O5
